US08445674B2
(S)-4-[(S)-4-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-1-hydroxymethyl-4-oxo-butyl]-2-methyl-3-oxo-piperazine-1-carboxylic acid (3-chloro-4-trifluoromethyl-phenyl)-amide
A cooled (−20° C.) solution of 0.29 g (0.50 mmol) of (S)-2-[(S)-4-(3-Chloro-4-trifluoromethyl-phenylcarbamoyl)-3-methyl-2-oxo-piperazin-1-yl]-5-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-5-oxo-pentanoic acid methyl ester in 1.5 ml of THF was treated with 0.25 ml (0.50 mmol) of LiBH4 (2 M in THF) and 0.04 ml (1.00 mmol) of MeOH in 0.3 ml of THF. The reaction was warmed to +15° C. (during 3 h) and stirred for 1.5 h at RT, cooled to 0° C. and stopped with 0.17 ml (2.28 mmol) of acetone. The reaction was partitioned between aqueous 10% KHSO4/EtOAc (3×). The organic phases were washed with aqueous saturated NaHCO3, aqueous 10% NaCl, dried (Na2SO4) and evaporated to give after flash silica gel column (dichloromethane/MeOH 96:4 to 95:5) and precipitation (dichloromethane/ether) 0.19 g (68%) of the title compound as white amorphous powder. MS: 561.21 (MH+, Cl).

reactant | (S)-2-[(S)-4-(3-Chloro-4-trifluoromethyl-phenylcarbamoyl)-3-methyl-2-oxo-piperazin-1-yl]-5-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-5-oxo-pentanoic acid methyl ester | 0.50 mmol, 0.29 g | COC([C@H](CCC(=O)N1C[C@H](C2(CC2)CC1)O)N1C([C@@H](N(CC1)C(NC1=CC(=C(C=C1)C(F)(F)F)Cl)=O)C)=O)=O | C26H32ClF3N4O6
reactant | LiBH4 | 0.50 mmol, 2 M, 0.25 ml | [Li+].[BH4-]
reactant | MeOH | 1.00 mmol, 0.04 ml | CO | CH4O
reactant | acetone | 2.28 mmol, 0.17 ml | CC(=O)C | C3H6O
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
solvent | THF | 0.3 ml | C1CCOC1 | C4H8O
product | (S)-4-[(S)-4-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-1-hydroxymethyl-4-oxo-butyl]-2-methyl-3-oxo-piperazine-1-carboxylic acid (3-chloro-4-trifluoromethyl-phenyl)-amide | ClC=1C=C(C=CC1C(F)(F)F)NC(=O)N1[C@H](C(N(CC1)[C@@H](CCC(=O)N1C[C@H](C2(CC2)CC1)O)CO)=O)C | C25H32ClF3N4O5
